US04567184
Benzyl-3-[1-(N-methylamino)hexyl]phenyl ether
A solution of benzyl-3-(hexanoyl)phenyl ether (2.8 g.), 40% aqueous methylamine (1.5 ml) and methanol adjusted to pH 6 with 5% aqueous hydrochloric acid is treated with a methanolic solution of sodium cyanoborohydride. The reaction is stirred overnight. The methanol is removed in vacuo and the remaining mixture is extracted with methylene chloride. The organic extract is dried (MgSO4) and concentrated to an oil.

reactant | benzyl-3-(hexanoyl)phenyl ether | 2.8 g | C(C1=CC=CC=C1)C1=C(C=CC=C1C(CCCCC)=O)OC1=C(C(=CC=C1)C(CCCCC)=O)CC1=CC=CC=C1 | C38H42O3
reactant | methylamine | 1.5 ml | CN | CH5N
reactant | hydrochloric acid | Cl | ClH
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | methanol | CO | CH4O
product | Benzyl-3-[1-(N-methylamino)hexyl]phenyl ether | C(C1=CC=CC=C1)C1=C(C=CC=C1C(CCCCC)NC)OC1=C(C(=CC=C1)C(CCCCC)NC)CC1=CC=CC=C1 | C40H52N2O
